datasets/10k__Tet_Int.csv
SMILES Labelled
"CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])CCCCCC)CC>>CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CC.[O-:21][H] 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][NH:10]C([H])C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[OH:10]C(CCC)C(C)C(O)C(C)[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C(C)C(O)C(C)C(CCC)[OH+:10]1 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]([NH:21]CC)([O]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].[H][NH:10][H].CC[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C([H])[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"[H][O:10]C(C)C(C)[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"[H][S:10]C(CC)C([H])[O][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])[O]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].CC[NH+:21]=[C:20]([NH]C)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]CC)([NH]C)[O]C 10=20;20,21=21"
"[H][O+:10](C(C)C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21][H])([S]CC)[O]C.[Cl-]>>[Cl-].CC[S:10][H].[H][O+:21]=[C:20]([S]CC)[O]C 21=20;20,10=10"
"[NH:10]([H])C(C)C(O)C(C)C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C(C)C(O)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])[NH]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])[NH][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]([O-:10])(OCCCCCC)[Cl:21])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OCCCCCC)[H].[Cl-:21] 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C([H])=C(C)C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)/C(C)=C([H])\C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[H][NH+:21]=[C:20]([NH][H])[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21][H])([NH][H])[O]C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O]C(C7=CC=CC=C7)C(C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][S+:10](C(CC)C(C)C(C)[S]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C(C)[S][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])CC)C)C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])CC)C)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][NH+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CCCCCC.[O-:21]CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[O]C([H])C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH]C([H])C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH]C([H])C(CC)[NH]1 10=20;20,21=21"
"[H]C1C(O[C:20](N1[H])([O-:10])[O:21]C)CCCCCC>>[H]C1C(O[C:20](=[O:10])N1[H])CCCCCC.[O-:21]C 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)C)CC>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C)CC.[O-:21]C 10=20;20,21=21"
"[H][O:10]C([H])C([H])[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[O]2.C[NH:10][H] 21=20;20,10=10"
